* SPICE NETLIST
***************************************

.SUBCKT L POS NEG SUB
.ENDS
***************************************
.SUBCKT SCF_ota Vi- CMFB Vb2 Vi+ Vb3 Iref AVdd Vo- Vo+ AGnd
** N=39 EP=10 IP=0 FDC=116
M0 38 11 38 AVdd P_18_MM L=1e-06 W=4e-06 AD=1.08e-12 AS=1.96e-12 PD=5.4e-07 PS=4.98e-06 $X=17990 $Y=6000 $D=3
M1 33 Vi- 35 33 P_18_MM L=3.6e-07 W=6e-06 AD=1.62e-12 AS=2.94e-12 PD=5.4e-07 PS=6.98e-06 $X=19050 $Y=-12320 $D=3
M2 Vo- 12 Vo- AVdd P_18_MM L=3e-07 W=2e-06 AD=5.4e-13 AS=9.8e-13 PD=5.4e-07 PS=2.98e-06 $X=19050 $Y=2000 $D=3
M3 AVdd CMFB 38 AVdd P_18_MM L=1e-06 W=4e-06 AD=1.08e-12 AS=1.08e-12 PD=5.4e-07 PS=5.4e-07 $X=19530 $Y=6000 $D=3
M4 38 Vb2 Vo- AVdd P_18_MM L=3e-07 W=2e-06 AD=9.8e-13 AS=5.4e-13 PD=2.98e-06 PS=5.4e-07 $X=19890 $Y=2000 $D=3
M5 16 Vi- 33 33 P_18_MM L=3.6e-07 W=6e-06 AD=2.94e-12 AS=1.62e-12 PD=6.98e-06 PS=5.4e-07 $X=19950 $Y=-12320 $D=3
M6 39 CMFB AVdd AVdd P_18_MM L=1e-06 W=4e-06 AD=1.08e-12 AS=1.08e-12 PD=5.4e-07 PS=5.4e-07 $X=21070 $Y=6000 $D=3
M7 Vo+ Vb2 39 AVdd P_18_MM L=3e-07 W=2e-06 AD=5.4e-13 AS=9.8e-13 PD=5.4e-07 PS=2.98e-06 $X=22030 $Y=2000 $D=3
M8 33 Vi+ 15 33 P_18_MM L=3.6e-07 W=6e-06 AD=1.62e-12 AS=2.94e-12 PD=5.4e-07 PS=6.98e-06 $X=22150 $Y=-12320 $D=3
M9 AVdd CMFB 39 AVdd P_18_MM L=1e-06 W=4e-06 AD=1.08e-12 AS=1.08e-12 PD=5.4e-07 PS=5.4e-07 $X=22610 $Y=6000 $D=3
M10 39 Vb2 Vo+ AVdd P_18_MM L=3e-07 W=2e-06 AD=9.8e-13 AS=5.4e-13 PD=2.98e-06 PS=5.4e-07 $X=22870 $Y=2000 $D=3
M11 34 Vi+ 33 33 P_18_MM L=3.6e-07 W=6e-06 AD=1.62e-12 AS=1.62e-12 PD=5.4e-07 PS=5.4e-07 $X=23050 $Y=-12320 $D=3
M12 33 Vi+ 34 33 P_18_MM L=3.6e-07 W=6e-06 AD=1.62e-12 AS=1.62e-12 PD=5.4e-07 PS=5.4e-07 $X=23950 $Y=-12320 $D=3
M13 38 CMFB AVdd AVdd P_18_MM L=1e-06 W=4e-06 AD=1.08e-12 AS=1.08e-12 PD=5.4e-07 PS=5.4e-07 $X=24150 $Y=6000 $D=3
M14 15 Vi+ 33 33 P_18_MM L=3.6e-07 W=6e-06 AD=2.94e-12 AS=1.62e-12 PD=6.98e-06 PS=5.4e-07 $X=24850 $Y=-12320 $D=3
M15 Vo- Vb2 38 AVdd P_18_MM L=3e-07 W=2e-06 AD=5.4e-13 AS=9.8e-13 PD=5.4e-07 PS=2.98e-06 $X=25010 $Y=2000 $D=3
M16 AVdd CMFB 38 AVdd P_18_MM L=1e-06 W=4e-06 AD=1.08e-12 AS=1.08e-12 PD=5.4e-07 PS=5.4e-07 $X=25690 $Y=6000 $D=3
M17 38 Vb2 Vo- AVdd P_18_MM L=3e-07 W=2e-06 AD=9.8e-13 AS=5.4e-13 PD=2.98e-06 PS=5.4e-07 $X=25850 $Y=2000 $D=3
M18 33 Vi- 16 33 P_18_MM L=3.6e-07 W=6e-06 AD=1.62e-12 AS=2.94e-12 PD=5.4e-07 PS=6.98e-06 $X=27050 $Y=-12320 $D=3
M19 39 CMFB AVdd AVdd P_18_MM L=1e-06 W=4e-06 AD=1.08e-12 AS=1.08e-12 PD=5.4e-07 PS=5.4e-07 $X=27230 $Y=6000 $D=3
M20 35 Vi- 33 33 P_18_MM L=3.6e-07 W=6e-06 AD=1.62e-12 AS=1.62e-12 PD=5.4e-07 PS=5.4e-07 $X=27950 $Y=-12320 $D=3
M21 Vo+ Vb2 39 AVdd P_18_MM L=3e-07 W=2e-06 AD=5.4e-13 AS=9.8e-13 PD=5.4e-07 PS=2.98e-06 $X=27990 $Y=2000 $D=3
M22 AVdd CMFB 39 AVdd P_18_MM L=1e-06 W=4e-06 AD=1.08e-12 AS=1.08e-12 PD=5.4e-07 PS=5.4e-07 $X=28770 $Y=6000 $D=3
M23 39 Vb2 Vo+ AVdd P_18_MM L=3e-07 W=2e-06 AD=9.8e-13 AS=5.4e-13 PD=2.98e-06 PS=5.4e-07 $X=28830 $Y=2000 $D=3
M24 33 Vi- 35 33 P_18_MM L=3.6e-07 W=6e-06 AD=1.62e-12 AS=1.62e-12 PD=5.4e-07 PS=5.4e-07 $X=28850 $Y=-12320 $D=3
M25 16 Vi- 33 33 P_18_MM L=3.6e-07 W=6e-06 AD=2.94e-12 AS=1.62e-12 PD=6.98e-06 PS=5.4e-07 $X=29750 $Y=-12320 $D=3
M26 38 CMFB AVdd AVdd P_18_MM L=1e-06 W=4e-06 AD=1.08e-12 AS=1.08e-12 PD=5.4e-07 PS=5.4e-07 $X=30310 $Y=6000 $D=3
M27 Vo- Vb2 38 AVdd P_18_MM L=3e-07 W=2e-06 AD=5.4e-13 AS=9.8e-13 PD=5.4e-07 PS=2.98e-06 $X=30970 $Y=2000 $D=3
M28 Vo- 17 Vo- AVdd P_18_MM L=3e-07 W=2e-06 AD=9.8e-13 AS=5.4e-13 PD=2.98e-06 PS=5.4e-07 $X=31810 $Y=2000 $D=3
M29 38 18 38 AVdd P_18_MM L=1e-06 W=4e-06 AD=1.96e-12 AS=1.08e-12 PD=4.98e-06 PS=5.4e-07 $X=31850 $Y=6000 $D=3
M30 33 Vi+ 15 33 P_18_MM L=3.6e-07 W=6e-06 AD=1.62e-12 AS=2.94e-12 PD=5.4e-07 PS=6.98e-06 $X=31950 $Y=-12320 $D=3
M31 34 Vi+ 33 33 P_18_MM L=3.6e-07 W=6e-06 AD=1.62e-12 AS=1.62e-12 PD=5.4e-07 PS=5.4e-07 $X=32850 $Y=-12320 $D=3
M32 33 Vi+ 34 33 P_18_MM L=3.6e-07 W=6e-06 AD=1.62e-12 AS=1.62e-12 PD=5.4e-07 PS=5.4e-07 $X=33750 $Y=-12320 $D=3
M33 15 Vi+ 33 33 P_18_MM L=3.6e-07 W=6e-06 AD=2.94e-12 AS=1.62e-12 PD=6.98e-06 PS=5.4e-07 $X=34650 $Y=-12320 $D=3
M34 33 Iref AVdd AVdd P_18_MM L=4.5e-07 W=8e-06 AD=2.16e-12 AS=3.92e-12 PD=5.4e-07 PS=8.98e-06 $X=34690 $Y=2000 $D=3
M35 AVdd Iref 33 AVdd P_18_MM L=4.5e-07 W=8e-06 AD=2.16e-12 AS=2.16e-12 PD=5.4e-07 PS=5.4e-07 $X=35680 $Y=2000 $D=3
M36 33 Iref AVdd AVdd P_18_MM L=4.5e-07 W=8e-06 AD=2.16e-12 AS=2.16e-12 PD=5.4e-07 PS=5.4e-07 $X=36670 $Y=2000 $D=3
M37 33 Vi- 16 33 P_18_MM L=3.6e-07 W=6e-06 AD=1.62e-12 AS=2.94e-12 PD=5.4e-07 PS=6.98e-06 $X=36850 $Y=-12320 $D=3
M38 AVdd Iref 33 AVdd P_18_MM L=4.5e-07 W=8e-06 AD=2.16e-12 AS=2.16e-12 PD=5.4e-07 PS=5.4e-07 $X=37660 $Y=2000 $D=3
M39 35 Vi- 33 33 P_18_MM L=3.6e-07 W=6e-06 AD=1.62e-12 AS=1.62e-12 PD=5.4e-07 PS=5.4e-07 $X=37750 $Y=-12320 $D=3
M40 33 Vi- 35 33 P_18_MM L=3.6e-07 W=6e-06 AD=1.62e-12 AS=1.62e-12 PD=5.4e-07 PS=5.4e-07 $X=38650 $Y=-12320 $D=3
M41 33 Iref AVdd AVdd P_18_MM L=4.5e-07 W=8e-06 AD=2.16e-12 AS=2.16e-12 PD=5.4e-07 PS=5.4e-07 $X=38650 $Y=2000 $D=3
M42 16 Vi- 33 33 P_18_MM L=3.6e-07 W=6e-06 AD=2.94e-12 AS=1.62e-12 PD=6.98e-06 PS=5.4e-07 $X=39550 $Y=-12320 $D=3
M43 AVdd Iref 33 AVdd P_18_MM L=4.5e-07 W=8e-06 AD=2.16e-12 AS=2.16e-12 PD=5.4e-07 PS=5.4e-07 $X=39640 $Y=2000 $D=3
M44 33 Iref AVdd AVdd P_18_MM L=4.5e-07 W=8e-06 AD=2.16e-12 AS=2.16e-12 PD=5.4e-07 PS=5.4e-07 $X=40630 $Y=2000 $D=3
M45 AVdd Iref 33 AVdd P_18_MM L=4.5e-07 W=8e-06 AD=3.92e-12 AS=2.16e-12 PD=8.98e-06 PS=5.4e-07 $X=41620 $Y=2000 $D=3
M46 33 Vi+ 15 33 P_18_MM L=3.6e-07 W=6e-06 AD=1.62e-12 AS=2.94e-12 PD=5.4e-07 PS=6.98e-06 $X=41750 $Y=-12320 $D=3
M47 34 Vi+ 33 33 P_18_MM L=3.6e-07 W=6e-06 AD=1.62e-12 AS=1.62e-12 PD=5.4e-07 PS=5.4e-07 $X=42650 $Y=-12320 $D=3
M48 33 Vi+ 34 33 P_18_MM L=3.6e-07 W=6e-06 AD=1.62e-12 AS=1.62e-12 PD=5.4e-07 PS=5.4e-07 $X=43550 $Y=-12320 $D=3
M49 38 26 38 AVdd P_18_MM L=1e-06 W=4e-06 AD=1.08e-12 AS=1.96e-12 PD=5.4e-07 PS=4.98e-06 $X=43910 $Y=6000 $D=3
M50 15 Vi+ 33 33 P_18_MM L=3.6e-07 W=6e-06 AD=2.94e-12 AS=1.62e-12 PD=6.98e-06 PS=5.4e-07 $X=44450 $Y=-12320 $D=3
M51 Vo- 28 Vo- AVdd P_18_MM L=3e-07 W=2e-06 AD=5.4e-13 AS=9.8e-13 PD=5.4e-07 PS=2.98e-06 $X=44650 $Y=2000 $D=3
M52 AVdd CMFB 38 AVdd P_18_MM L=1e-06 W=4e-06 AD=1.08e-12 AS=1.08e-12 PD=5.4e-07 PS=5.4e-07 $X=45450 $Y=6000 $D=3
M53 38 Vb2 Vo- AVdd P_18_MM L=3e-07 W=2e-06 AD=9.8e-13 AS=5.4e-13 PD=2.98e-06 PS=5.4e-07 $X=45490 $Y=2000 $D=3
M54 33 Vi- 16 33 P_18_MM L=3.6e-07 W=6e-06 AD=1.62e-12 AS=2.94e-12 PD=5.4e-07 PS=6.98e-06 $X=46650 $Y=-12320 $D=3
M55 39 CMFB AVdd AVdd P_18_MM L=1e-06 W=4e-06 AD=1.08e-12 AS=1.08e-12 PD=5.4e-07 PS=5.4e-07 $X=46990 $Y=6000 $D=3
M56 35 Vi- 33 33 P_18_MM L=3.6e-07 W=6e-06 AD=1.62e-12 AS=1.62e-12 PD=5.4e-07 PS=5.4e-07 $X=47550 $Y=-12320 $D=3
M57 Vo+ Vb2 39 AVdd P_18_MM L=3e-07 W=2e-06 AD=5.4e-13 AS=9.8e-13 PD=5.4e-07 PS=2.98e-06 $X=47630 $Y=2000 $D=3
M58 33 Vi- 35 33 P_18_MM L=3.6e-07 W=6e-06 AD=1.62e-12 AS=1.62e-12 PD=5.4e-07 PS=5.4e-07 $X=48450 $Y=-12320 $D=3
M59 39 Vb2 Vo+ AVdd P_18_MM L=3e-07 W=2e-06 AD=9.8e-13 AS=5.4e-13 PD=2.98e-06 PS=5.4e-07 $X=48470 $Y=2000 $D=3
M60 AVdd CMFB 39 AVdd P_18_MM L=1e-06 W=4e-06 AD=1.08e-12 AS=1.08e-12 PD=5.4e-07 PS=5.4e-07 $X=48530 $Y=6000 $D=3
M61 16 Vi- 33 33 P_18_MM L=3.6e-07 W=6e-06 AD=2.94e-12 AS=1.62e-12 PD=6.98e-06 PS=5.4e-07 $X=49350 $Y=-12320 $D=3
M62 38 CMFB AVdd AVdd P_18_MM L=1e-06 W=4e-06 AD=1.08e-12 AS=1.08e-12 PD=5.4e-07 PS=5.4e-07 $X=50070 $Y=6000 $D=3
M63 Vo- Vb2 38 AVdd P_18_MM L=3e-07 W=2e-06 AD=5.4e-13 AS=9.8e-13 PD=5.4e-07 PS=2.98e-06 $X=50610 $Y=2000 $D=3
M64 38 Vb2 Vo- AVdd P_18_MM L=3e-07 W=2e-06 AD=9.8e-13 AS=5.4e-13 PD=2.98e-06 PS=5.4e-07 $X=51450 $Y=2000 $D=3
M65 33 Vi+ 15 33 P_18_MM L=3.6e-07 W=6e-06 AD=1.62e-12 AS=2.94e-12 PD=5.4e-07 PS=6.98e-06 $X=51550 $Y=-12320 $D=3
M66 AVdd CMFB 38 AVdd P_18_MM L=1e-06 W=4e-06 AD=1.08e-12 AS=1.08e-12 PD=5.4e-07 PS=5.4e-07 $X=51610 $Y=6000 $D=3
M67 34 Vi+ 33 33 P_18_MM L=3.6e-07 W=6e-06 AD=1.62e-12 AS=1.62e-12 PD=5.4e-07 PS=5.4e-07 $X=52450 $Y=-12320 $D=3
M68 39 CMFB AVdd AVdd P_18_MM L=1e-06 W=4e-06 AD=1.08e-12 AS=1.08e-12 PD=5.4e-07 PS=5.4e-07 $X=53150 $Y=6000 $D=3
M69 33 Vi+ 34 33 P_18_MM L=3.6e-07 W=6e-06 AD=1.62e-12 AS=1.62e-12 PD=5.4e-07 PS=5.4e-07 $X=53350 $Y=-12320 $D=3
M70 Vo+ Vb2 39 AVdd P_18_MM L=3e-07 W=2e-06 AD=5.4e-13 AS=9.8e-13 PD=5.4e-07 PS=2.98e-06 $X=53590 $Y=2000 $D=3
M71 15 Vi+ 33 33 P_18_MM L=3.6e-07 W=6e-06 AD=2.94e-12 AS=1.62e-12 PD=6.98e-06 PS=5.4e-07 $X=54250 $Y=-12320 $D=3
M72 39 Vb2 Vo+ AVdd P_18_MM L=3e-07 W=2e-06 AD=9.8e-13 AS=5.4e-13 PD=2.98e-06 PS=5.4e-07 $X=54430 $Y=2000 $D=3
M73 AVdd CMFB 39 AVdd P_18_MM L=1e-06 W=4e-06 AD=1.08e-12 AS=1.08e-12 PD=5.4e-07 PS=5.4e-07 $X=54690 $Y=6000 $D=3
M74 38 CMFB AVdd AVdd P_18_MM L=1e-06 W=4e-06 AD=1.08e-12 AS=1.08e-12 PD=5.4e-07 PS=5.4e-07 $X=56230 $Y=6000 $D=3
M75 33 Vi- 16 33 P_18_MM L=3.6e-07 W=6e-06 AD=1.62e-12 AS=2.94e-12 PD=5.4e-07 PS=6.98e-06 $X=56450 $Y=-12320 $D=3
M76 Vo- Vb2 38 AVdd P_18_MM L=3e-07 W=2e-06 AD=5.4e-13 AS=9.8e-13 PD=5.4e-07 PS=2.98e-06 $X=56570 $Y=2000 $D=3
M77 35 Vi- 33 33 P_18_MM L=3.6e-07 W=6e-06 AD=2.94e-12 AS=1.62e-12 PD=6.98e-06 PS=5.4e-07 $X=57350 $Y=-12320 $D=3
M78 Vo- 31 Vo- AVdd P_18_MM L=3e-07 W=2e-06 AD=9.8e-13 AS=5.4e-13 PD=2.98e-06 PS=5.4e-07 $X=57410 $Y=2000 $D=3
M79 38 32 38 AVdd P_18_MM L=1e-06 W=4e-06 AD=1.96e-12 AS=1.08e-12 PD=4.98e-06 PS=5.4e-07 $X=57770 $Y=6000 $D=3
M80 Vo- 13 Vo- AGnd N_18_MM L=4.5e-07 W=2e-06 AD=5.4e-13 AS=9.8e-13 PD=5.4e-07 PS=2.98e-06 $X=24590 $Y=-19990 $D=2
M81 34 Vb3 Vo- AGnd N_18_MM L=4.5e-07 W=2e-06 AD=9.8e-13 AS=5.4e-13 PD=2.98e-06 PS=5.4e-07 $X=25580 $Y=-19990 $D=2
M82 Vo+ Vb3 35 AGnd N_18_MM L=4.5e-07 W=2e-06 AD=5.4e-13 AS=9.8e-13 PD=5.4e-07 PS=2.98e-06 $X=27870 $Y=-19990 $D=2
M83 35 14 35 AGnd N_18_MM L=4.5e-07 W=2e-06 AD=5.4e-13 AS=9.8e-13 PD=5.4e-07 PS=2.98e-06 $X=28320 $Y=-24510 $D=2
M84 35 Vb3 Vo+ AGnd N_18_MM L=4.5e-07 W=2e-06 AD=9.8e-13 AS=5.4e-13 PD=2.98e-06 PS=5.4e-07 $X=28860 $Y=-19990 $D=2
M85 AGnd 15 35 AGnd N_18_MM L=4.5e-07 W=2e-06 AD=5.4e-13 AS=5.4e-13 PD=5.4e-07 PS=5.4e-07 $X=29310 $Y=-24510 $D=2
M86 34 16 AGnd AGnd N_18_MM L=4.5e-07 W=2e-06 AD=5.4e-13 AS=5.4e-13 PD=5.4e-07 PS=5.4e-07 $X=30300 $Y=-24510 $D=2
M87 Vo- Vb3 34 AGnd N_18_MM L=4.5e-07 W=2e-06 AD=5.4e-13 AS=9.8e-13 PD=5.4e-07 PS=2.98e-06 $X=31150 $Y=-19990 $D=2
M88 AGnd 16 34 AGnd N_18_MM L=4.5e-07 W=2e-06 AD=5.4e-13 AS=5.4e-13 PD=5.4e-07 PS=5.4e-07 $X=31290 $Y=-24510 $D=2
M89 Vo- 19 Vo- AGnd N_18_MM L=4.5e-07 W=2e-06 AD=9.8e-13 AS=5.4e-13 PD=2.98e-06 PS=5.4e-07 $X=32140 $Y=-19990 $D=2
M90 35 15 AGnd AGnd N_18_MM L=4.5e-07 W=2e-06 AD=5.4e-13 AS=5.4e-13 PD=5.4e-07 PS=5.4e-07 $X=32280 $Y=-24510 $D=2
M91 35 20 35 AGnd N_18_MM L=4.5e-07 W=2e-06 AD=9.8e-13 AS=5.4e-13 PD=2.98e-06 PS=5.4e-07 $X=33270 $Y=-24510 $D=2
M92 36 21 36 AGnd N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=4.9e-13 PD=5.4e-07 PS=1.98e-06 $X=35070 $Y=-19900 $D=2
M93 36 22 36 AGnd N_18_MM L=4.5e-07 W=2e-06 AD=5.4e-13 AS=9.8e-13 PD=5.4e-07 PS=2.98e-06 $X=35560 $Y=-24510 $D=2
M94 16 Vb3 36 AGnd N_18_MM L=1.8e-07 W=1e-06 AD=4.9e-13 AS=2.7e-13 PD=1.98e-06 PS=5.4e-07 $X=35790 $Y=-19900 $D=2
M95 AGnd 16 36 AGnd N_18_MM L=4.5e-07 W=2e-06 AD=5.4e-13 AS=5.4e-13 PD=5.4e-07 PS=5.4e-07 $X=36550 $Y=-24510 $D=2
M96 37 15 AGnd AGnd N_18_MM L=4.5e-07 W=2e-06 AD=5.4e-13 AS=5.4e-13 PD=5.4e-07 PS=5.4e-07 $X=37540 $Y=-24510 $D=2
M97 37 Vb3 15 AGnd N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=4.9e-13 PD=5.4e-07 PS=1.98e-06 $X=37810 $Y=-19900 $D=2
M98 AGnd 15 37 AGnd N_18_MM L=4.5e-07 W=2e-06 AD=5.4e-13 AS=5.4e-13 PD=5.4e-07 PS=5.4e-07 $X=38530 $Y=-24510 $D=2
M99 15 Vb3 37 AGnd N_18_MM L=1.8e-07 W=1e-06 AD=4.9e-13 AS=2.7e-13 PD=1.98e-06 PS=5.4e-07 $X=38530 $Y=-19900 $D=2
M100 36 16 AGnd AGnd N_18_MM L=4.5e-07 W=2e-06 AD=5.4e-13 AS=5.4e-13 PD=5.4e-07 PS=5.4e-07 $X=39520 $Y=-24510 $D=2
M101 36 23 36 AGnd N_18_MM L=4.5e-07 W=2e-06 AD=9.8e-13 AS=5.4e-13 PD=2.98e-06 PS=5.4e-07 $X=40510 $Y=-24510 $D=2
M102 36 Vb3 16 AGnd N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=4.9e-13 PD=5.4e-07 PS=1.98e-06 $X=40550 $Y=-19900 $D=2
M103 36 24 36 AGnd N_18_MM L=1.8e-07 W=1e-06 AD=4.9e-13 AS=2.7e-13 PD=1.98e-06 PS=5.4e-07 $X=41270 $Y=-19900 $D=2
M104 35 25 35 AGnd N_18_MM L=4.5e-07 W=2e-06 AD=5.4e-13 AS=9.8e-13 PD=5.4e-07 PS=2.98e-06 $X=42800 $Y=-24510 $D=2
M105 AGnd 15 35 AGnd N_18_MM L=4.5e-07 W=2e-06 AD=5.4e-13 AS=5.4e-13 PD=5.4e-07 PS=5.4e-07 $X=43790 $Y=-24510 $D=2
M106 Vo- 27 Vo- AGnd N_18_MM L=4.5e-07 W=2e-06 AD=5.4e-13 AS=9.8e-13 PD=5.4e-07 PS=2.98e-06 $X=43930 $Y=-19990 $D=2
M107 34 16 AGnd AGnd N_18_MM L=4.5e-07 W=2e-06 AD=5.4e-13 AS=5.4e-13 PD=5.4e-07 PS=5.4e-07 $X=44780 $Y=-24510 $D=2
M108 34 Vb3 Vo- AGnd N_18_MM L=4.5e-07 W=2e-06 AD=9.8e-13 AS=5.4e-13 PD=2.98e-06 PS=5.4e-07 $X=44920 $Y=-19990 $D=2
M109 AGnd 16 34 AGnd N_18_MM L=4.5e-07 W=2e-06 AD=5.4e-13 AS=5.4e-13 PD=5.4e-07 PS=5.4e-07 $X=45770 $Y=-24510 $D=2
M110 35 15 AGnd AGnd N_18_MM L=4.5e-07 W=2e-06 AD=5.4e-13 AS=5.4e-13 PD=5.4e-07 PS=5.4e-07 $X=46760 $Y=-24510 $D=2
M111 Vo+ Vb3 35 AGnd N_18_MM L=4.5e-07 W=2e-06 AD=5.4e-13 AS=9.8e-13 PD=5.4e-07 PS=2.98e-06 $X=47210 $Y=-19990 $D=2
M112 35 29 35 AGnd N_18_MM L=4.5e-07 W=2e-06 AD=9.8e-13 AS=5.4e-13 PD=2.98e-06 PS=5.4e-07 $X=47750 $Y=-24510 $D=2
M113 35 Vb3 Vo+ AGnd N_18_MM L=4.5e-07 W=2e-06 AD=9.8e-13 AS=5.4e-13 PD=2.98e-06 PS=5.4e-07 $X=48200 $Y=-19990 $D=2
M114 Vo- Vb3 34 AGnd N_18_MM L=4.5e-07 W=2e-06 AD=5.4e-13 AS=9.8e-13 PD=5.4e-07 PS=2.98e-06 $X=50490 $Y=-19990 $D=2
M115 Vo- 30 Vo- AGnd N_18_MM L=4.5e-07 W=2e-06 AD=9.8e-13 AS=5.4e-13 PD=2.98e-06 PS=5.4e-07 $X=51480 $Y=-19990 $D=2
.ENDS
***************************************
.SUBCKT switch_X4 e VDD VSS in out
** N=6 EP=5 IP=0 FDC=10
M0 6 e VDD VDD P_18_MM L=1.8e-07 W=3e-06 AD=1.47e-12 AS=1.47e-12 PD=3.98e-06 PS=3.98e-06 $X=460 $Y=1070 $D=3
M1 out 6 in VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=1.47e-12 PD=5.4e-07 PS=3.98e-06 $X=2480 $Y=1070 $D=3
M2 in 6 out VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=3200 $Y=1070 $D=3
M3 out 6 in VDD P_18_MM L=1.8e-07 W=3e-06 AD=8.1e-13 AS=8.1e-13 PD=5.4e-07 PS=5.4e-07 $X=3920 $Y=1070 $D=3
M4 in 6 out VDD P_18_MM L=1.8e-07 W=3e-06 AD=1.47e-12 AS=8.1e-13 PD=3.98e-06 PS=5.4e-07 $X=4640 $Y=1070 $D=3
M5 6 e VSS VSS N_18_MM L=1.8e-07 W=1e-06 AD=4.9e-13 AS=4.9e-13 PD=1.98e-06 PS=1.98e-06 $X=460 $Y=-1440 $D=2
M6 out e in VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=4.9e-13 PD=5.4e-07 PS=1.98e-06 $X=2480 $Y=-1440 $D=2
M7 in e out VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=3200 $Y=-1440 $D=2
M8 out e in VSS N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=3920 $Y=-1440 $D=2
M9 in e out VSS N_18_MM L=1.8e-07 W=1e-06 AD=4.9e-13 AS=2.7e-13 PD=1.98e-06 PS=5.4e-07 $X=4640 $Y=-1440 $D=2
.ENDS
***************************************
.SUBCKT SCF_dcmfb AVdd AGnd Vo- Vo+ phi2 Vocm Vb1 phi1 CMFB
** N=13 EP=9 IP=40 FDC=88
C0 10 12 L=1e-05 W=1e-05 $[MIMCAPS_MM] $X=32450 $Y=-45650 $D=64
C1 10 12 L=1e-05 W=1e-05 $[MIMCAPS_MM] $X=32450 $Y=-34650 $D=64
C2 11 13 L=1e-05 W=1e-05 $[MIMCAPS_MM] $X=32450 $Y=-22480 $D=64
C3 11 13 L=1e-05 W=1e-05 $[MIMCAPS_MM] $X=32450 $Y=-11480 $D=64
C4 Vo- CMFB L=1e-05 W=1e-05 $[MIMCAPS_MM] $X=50380 $Y=-45650 $D=64
C5 Vo- CMFB L=1e-05 W=1e-05 $[MIMCAPS_MM] $X=50380 $Y=-34650 $D=64
C6 Vo+ CMFB L=1e-05 W=1e-05 $[MIMCAPS_MM] $X=50380 $Y=-22480 $D=64
C7 Vo+ CMFB L=1e-05 W=1e-05 $[MIMCAPS_MM] $X=50380 $Y=-11480 $D=64
X8 phi2 AVdd AGnd Vocm 10 switch_X4 $T=25580 -37450 1 0 $X=24860 $Y=-42640
X9 phi2 AVdd AGnd Vb1 12 switch_X4 $T=25580 -32850 0 0 $X=24860 $Y=-35150
X10 phi2 AVdd AGnd Vb1 13 switch_X4 $T=25580 -14280 1 0 $X=24860 $Y=-19470
X11 phi2 AVdd AGnd Vocm 11 switch_X4 $T=25580 -9680 0 0 $X=24860 $Y=-11980
X12 phi1 AVdd AGnd 10 Vo- switch_X4 $T=43670 -37450 1 0 $X=42950 $Y=-42640
X13 phi1 AVdd AGnd 12 CMFB switch_X4 $T=43670 -32850 0 0 $X=42950 $Y=-35150
X14 phi1 AVdd AGnd 13 CMFB switch_X4 $T=43670 -14280 1 0 $X=42950 $Y=-19470
X15 phi1 AVdd AGnd 11 Vo+ switch_X4 $T=43670 -9680 0 0 $X=42950 $Y=-11980
.ENDS
***************************************
.SUBCKT SCF Iref AGnd AVdd Vo+ Vo- Vi- Vi+ Vocm phi2 phi1
** N=16 EP=10 IP=19 FDC=233
M0 AVdd Iref Iref AVdd P_18_MM L=4.5e-07 W=1e-06 AD=2.7e-13 AS=4.9e-13 PD=5.4e-07 PS=1.98e-06 $X=-29200 $Y=35980 $D=3
M1 AVdd Iref Iref AVdd P_18_MM L=4.5e-07 W=1e-06 AD=2.7e-13 AS=4.9e-13 PD=5.4e-07 PS=1.98e-06 $X=-29200 $Y=37860 $D=3
M2 4 Iref AVdd AVdd P_18_MM L=4.5e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=-28210 $Y=35980 $D=3
M3 2 Iref AVdd AVdd P_18_MM L=4.5e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=-28210 $Y=37860 $D=3
M4 AVdd Iref 4 AVdd P_18_MM L=4.5e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=-27220 $Y=35980 $D=3
M5 AVdd Iref 2 AVdd P_18_MM L=4.5e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=-27220 $Y=37860 $D=3
M6 Iref Iref AVdd AVdd P_18_MM L=4.5e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=-26230 $Y=35980 $D=3
M7 Iref Iref AVdd AVdd P_18_MM L=4.5e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=-26230 $Y=37860 $D=3
M8 AVdd Iref Iref AVdd P_18_MM L=4.5e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=-25240 $Y=35980 $D=3
M9 AVdd Iref Iref AVdd P_18_MM L=4.5e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=-25240 $Y=37860 $D=3
M10 4 Iref AVdd AVdd P_18_MM L=4.5e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=-24250 $Y=35980 $D=3
M11 2 Iref AVdd AVdd P_18_MM L=4.5e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=-24250 $Y=37860 $D=3
M12 AVdd Iref 4 AVdd P_18_MM L=4.5e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=-23260 $Y=35980 $D=3
M13 AVdd Iref 2 AVdd P_18_MM L=4.5e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=-23260 $Y=37860 $D=3
M14 Iref Iref AVdd AVdd P_18_MM L=4.5e-07 W=1e-06 AD=4.9e-13 AS=2.7e-13 PD=1.98e-06 PS=5.4e-07 $X=-22270 $Y=35980 $D=3
M15 Iref Iref AVdd AVdd P_18_MM L=4.5e-07 W=1e-06 AD=4.9e-13 AS=2.7e-13 PD=1.98e-06 PS=5.4e-07 $X=-22270 $Y=37860 $D=3
M16 5 5 AVdd AVdd P_18_MM L=1e-06 W=4e-06 AD=1.08e-12 AS=1.96e-12 PD=5.4e-07 PS=4.98e-06 $X=-19980 $Y=34880 $D=3
M17 6 6 5 AVdd P_18_MM L=3e-07 W=2e-06 AD=5.4e-13 AS=9.8e-13 PD=5.4e-07 PS=2.98e-06 $X=-18590 $Y=31600 $D=3
M18 AVdd 5 5 AVdd P_18_MM L=1e-06 W=4e-06 AD=1.08e-12 AS=1.08e-12 PD=5.4e-07 PS=5.4e-07 $X=-18440 $Y=34880 $D=3
M19 5 6 6 AVdd P_18_MM L=3e-07 W=2e-06 AD=5.4e-13 AS=5.4e-13 PD=5.4e-07 PS=5.4e-07 $X=-17750 $Y=31600 $D=3
M20 6 6 5 AVdd P_18_MM L=3e-07 W=2e-06 AD=5.4e-13 AS=5.4e-13 PD=5.4e-07 PS=5.4e-07 $X=-16910 $Y=31600 $D=3
M21 5 5 AVdd AVdd P_18_MM L=1e-06 W=4e-06 AD=1.08e-12 AS=1.08e-12 PD=5.4e-07 PS=5.4e-07 $X=-16900 $Y=34880 $D=3
M22 5 6 6 AVdd P_18_MM L=3e-07 W=2e-06 AD=9.8e-13 AS=5.4e-13 PD=2.98e-06 PS=5.4e-07 $X=-16070 $Y=31600 $D=3
M23 AVdd 5 5 AVdd P_18_MM L=1e-06 W=4e-06 AD=1.96e-12 AS=1.08e-12 PD=4.98e-06 PS=5.4e-07 $X=-15360 $Y=34880 $D=3
M24 3 2 2 AGnd N_18_MM L=4.5e-07 W=2e-06 AD=5.4e-13 AS=9.8e-13 PD=5.4e-07 PS=2.98e-06 $X=-25100 $Y=28440 $D=2
M25 3 3 AGnd AGnd N_18_MM L=4.5e-07 W=2e-06 AD=9.8e-13 AS=9.8e-13 PD=2.98e-06 PS=2.98e-06 $X=-24610 $Y=24980 $D=2
M26 2 2 3 AGnd N_18_MM L=4.5e-07 W=2e-06 AD=9.8e-13 AS=5.4e-13 PD=2.98e-06 PS=5.4e-07 $X=-24110 $Y=28440 $D=2
M27 4 4 AGnd AGnd N_18_MM L=4.5e-07 W=2e-06 AD=9.8e-13 AS=9.8e-13 PD=2.98e-06 PS=2.98e-06 $X=-22320 $Y=24980 $D=2
M28 6 4 AGnd AGnd N_18_MM L=4.5e-07 W=2e-06 AD=9.8e-13 AS=9.8e-13 PD=2.98e-06 PS=2.98e-06 $X=-20030 $Y=24980 $D=2
X29 Vi- 13 6 Vi+ 2 Iref AVdd Vo- Vo+ AGnd SCF_ota $T=-37310 2930 0 0 $X=-31690 $Y=-30130
X30 AVdd AGnd Vo- Vo+ phi2 Vocm 5 phi1 13 SCF_dcmfb $T=34720 83530 0 270 $X=-11470 $Y=22650
.ENDS
***************************************
