* LVS netlist generated with ICnet by 'dlavila' on Sat Feb  8 2014 at 23:30:11

*
* Component pathname : $SC_filter/default.group/logic.views/SCF_bias
*
.subckt SCF_bias  Vb1 Vb2 Vb3 AGnd AVdd Iref

        M24 Vb2 Vb5 AGnd AGnd n_18_mm w=2u l=0.45u m=1
        M18 Vb5 Vb5 AGnd AGnd n_18_mm w=2u l=0.45u m=1
        M22 Vb1 Vb1 AVdd AVdd p_18_mm w=4u l=1u m=4
        M20 Vb2 Vb2 Vb1 AVdd p_18_mm w=2u l=0.3u m=4
        M21 Vb3 Vb3 Vb4 AGnd n_18_mm w=2u l=0.45u m=2
        M19 Vb4 Vb4 AGnd AGnd n_18_mm w=2u l=0.45u m=1
        M17 Vb5 Iref AVdd AVdd p_18_mm w=1u l=0.45u m=4
        M16 Vb3 Iref AVdd AVdd p_18_mm w=1u l=0.45u m=4
        M15 Iref Iref AVdd AVdd p_18_mm w=1u l=0.45u m=8
.ends SCF_bias

