* SPICE NETLIST
***************************************

.SUBCKT L POS NEG SUB
.ENDS
***************************************
.SUBCKT SCF_bias Iref Vb3 Vb1 Vb2 AGnd AVdd
** N=8 EP=6 IP=0 FDC=29
M0 AVdd Iref Iref AVdd P_18_MM L=4.5e-07 W=1e-06 AD=2.7e-13 AS=4.9e-13 PD=5.4e-07 PS=1.98e-06 $X=840 $Y=16300 $D=3
M1 AVdd Iref Iref AVdd P_18_MM L=4.5e-07 W=1e-06 AD=2.7e-13 AS=4.9e-13 PD=5.4e-07 PS=1.98e-06 $X=840 $Y=18180 $D=3
M2 4 Iref AVdd AVdd P_18_MM L=4.5e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=1830 $Y=16300 $D=3
M3 Vb3 Iref AVdd AVdd P_18_MM L=4.5e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=1830 $Y=18180 $D=3
M4 AVdd Iref 4 AVdd P_18_MM L=4.5e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=2820 $Y=16300 $D=3
M5 AVdd Iref Vb3 AVdd P_18_MM L=4.5e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=2820 $Y=18180 $D=3
M6 Iref Iref AVdd AVdd P_18_MM L=4.5e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=3810 $Y=16300 $D=3
M7 Iref Iref AVdd AVdd P_18_MM L=4.5e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=3810 $Y=18180 $D=3
M8 AVdd Iref Iref AVdd P_18_MM L=4.5e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=4800 $Y=16300 $D=3
M9 AVdd Iref Iref AVdd P_18_MM L=4.5e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=4800 $Y=18180 $D=3
M10 4 Iref AVdd AVdd P_18_MM L=4.5e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=5790 $Y=16300 $D=3
M11 Vb3 Iref AVdd AVdd P_18_MM L=4.5e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=5790 $Y=18180 $D=3
M12 AVdd Iref 4 AVdd P_18_MM L=4.5e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=6780 $Y=16300 $D=3
M13 AVdd Iref Vb3 AVdd P_18_MM L=4.5e-07 W=1e-06 AD=2.7e-13 AS=2.7e-13 PD=5.4e-07 PS=5.4e-07 $X=6780 $Y=18180 $D=3
M14 Iref Iref AVdd AVdd P_18_MM L=4.5e-07 W=1e-06 AD=4.9e-13 AS=2.7e-13 PD=1.98e-06 PS=5.4e-07 $X=7770 $Y=16300 $D=3
M15 Iref Iref AVdd AVdd P_18_MM L=4.5e-07 W=1e-06 AD=4.9e-13 AS=2.7e-13 PD=1.98e-06 PS=5.4e-07 $X=7770 $Y=18180 $D=3
M16 Vb1 Vb1 AVdd AVdd P_18_MM L=1e-06 W=4e-06 AD=1.08e-12 AS=1.96e-12 PD=5.4e-07 PS=4.98e-06 $X=10060 $Y=15200 $D=3
M17 Vb2 Vb2 Vb1 AVdd P_18_MM L=3e-07 W=2e-06 AD=5.4e-13 AS=9.8e-13 PD=5.4e-07 PS=2.98e-06 $X=11450 $Y=11920 $D=3
M18 AVdd Vb1 Vb1 AVdd P_18_MM L=1e-06 W=4e-06 AD=1.08e-12 AS=1.08e-12 PD=5.4e-07 PS=5.4e-07 $X=11600 $Y=15200 $D=3
M19 Vb1 Vb2 Vb2 AVdd P_18_MM L=3e-07 W=2e-06 AD=5.4e-13 AS=5.4e-13 PD=5.4e-07 PS=5.4e-07 $X=12290 $Y=11920 $D=3
M20 Vb2 Vb2 Vb1 AVdd P_18_MM L=3e-07 W=2e-06 AD=5.4e-13 AS=5.4e-13 PD=5.4e-07 PS=5.4e-07 $X=13130 $Y=11920 $D=3
M21 Vb1 Vb1 AVdd AVdd P_18_MM L=1e-06 W=4e-06 AD=1.08e-12 AS=1.08e-12 PD=5.4e-07 PS=5.4e-07 $X=13140 $Y=15200 $D=3
M22 Vb1 Vb2 Vb2 AVdd P_18_MM L=3e-07 W=2e-06 AD=9.8e-13 AS=5.4e-13 PD=2.98e-06 PS=5.4e-07 $X=13970 $Y=11920 $D=3
M23 AVdd Vb1 Vb1 AVdd P_18_MM L=1e-06 W=4e-06 AD=1.96e-12 AS=1.08e-12 PD=4.98e-06 PS=5.4e-07 $X=14680 $Y=15200 $D=3
M24 3 Vb3 Vb3 AGnd N_18_MM L=4.5e-07 W=2e-06 AD=5.4e-13 AS=9.8e-13 PD=5.4e-07 PS=2.98e-06 $X=4940 $Y=8760 $D=2
M25 3 3 AGnd AGnd N_18_MM L=4.5e-07 W=2e-06 AD=9.8e-13 AS=9.8e-13 PD=2.98e-06 PS=2.98e-06 $X=5430 $Y=5300 $D=2
M26 Vb3 Vb3 3 AGnd N_18_MM L=4.5e-07 W=2e-06 AD=9.8e-13 AS=5.4e-13 PD=2.98e-06 PS=5.4e-07 $X=5930 $Y=8760 $D=2
M27 4 4 AGnd AGnd N_18_MM L=4.5e-07 W=2e-06 AD=9.8e-13 AS=9.8e-13 PD=2.98e-06 PS=2.98e-06 $X=7720 $Y=5300 $D=2
M28 Vb2 4 AGnd AGnd N_18_MM L=4.5e-07 W=2e-06 AD=9.8e-13 AS=9.8e-13 PD=2.98e-06 PS=2.98e-06 $X=10010 $Y=5300 $D=2
.ENDS
***************************************
